US06506936B1
To a solution of β-alanine ethyl ester (154 mg, 1 mmol) in anhydrous methylene chloride (7 mL) at room temperature was added triethyl amine (101 mg, 1 mmol) and 4-chlorobenzaldehyde (155 mg, 1.1 mmol). After being stirred for 0.5 h, sodium triacetoxyborohydride (318 mg, 1.5 mmol) was added and the reaction mixture was stirred for additional 1 h at room temperature, followed by the addition of 4-methoxybenzenesulfonyl chloride (207 mg, 1 mmol) and triethyl amine (152 mg, 1.5 mmol). The resulting mixture was stirred for 18 h, quenched with 10% citric acid (10 mL) and, after 30 min, extracted with methylene chloride (2×30 mL). Two phases was separated and the organic layers was washed with brine, dried over MgSO4, filtered, and concentrated. The crude product was purified by silica gel chromatography (2/1: hexanes/ethyl acetate) to give ethyl 3-[(4-chlorobenzyl)-(4-methoxybenzenesulfonyl)-amino]-propionate (44 mg, 0.1 mmol).

reactant | β-alanine ethyl ester | 1 mmol, 154 mg | C(C)OC(CCN)=O | C5H11NO2
reactant | triethyl amine | 1 mmol, 101 mg | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzaldehyde | 1.1 mmol, 155 mg | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | sodium triacetoxyborohydride | 1.5 mmol, 318 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 4-methoxybenzenesulfonyl chloride | 1 mmol, 207 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | triethyl amine | 1.5 mmol, 152 mg | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 7 mL | C(Cl)Cl | CH2Cl2
product | ethyl 3-[(4-chlorobenzyl)-(4-methoxybenzenesulfonyl)-amino]-propionate | 0.1 mmol, 44 mg | ClC1=CC=C(CN(CCC(=O)OCC)S(=O)(=O)C2=CC=C(C=C2)OC)C=C1 | C19H22ClNO5S
